datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])[H:13])[H:12])([H:10])[H:11],39.3296
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22](=[C:23]([H:25])[H:26])[H:24]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:22](=[C:23]([H:25])[H:26])[H:24],3.3472
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:14]([H:15])([H:16])[H:17])[H:6],24.2672
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]([S:16][H:18])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:17])[H:8])([H:6])[H:7].[S:15][S:16][H:18],24.6856
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:4])([H:5])[H:6],42.091
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[S:3])[H:14])[H:6])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:15])[H:16],67.3624
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:7])([H:5])[H:6],55.2288
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([C:14]([O:15][O:16])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:16][O:15][C:14]([C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],71.128
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:12])([H:13])[H:14])([H:11])[C:3]([O:7][O:8][H:19])([H:15])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],43.932
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][H:13])=[O:3])([H:8])([H:9])[H:10].[C:4](=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])([H:11])[H:12],202.966
[C:0](=[O:1])([H:2])[H:3].[O:4][H:5]>>[C:0](=[O:1])[H:3].[H:2][O:4][H:5],-1.8828
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[O:10][H:11]>>[C:0](=[C:1][C:2]([O:3][H:9])([H:7])[H:8])([H:4])[H:5].[H:6][O:10][H:11],24.93664
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][H:32],28.267104
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:25])([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:24])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])([H:22])[H:23],18.9117
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[Cl:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][Cl:15],6.4063
